US08877782B2
{6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-(1R,5S)-6-oxa-3-aza-bicyclo[3.1.1]hept-3-yl-methanone
As described for example 105, 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (36 mg, 0.11 mmol) was converted, using rac-6-oxa-3-aza-bicyclo[3.1.1]heptane instead of 2,2,2-trifluoroethylamine, to the title compound (10 mg, 22%) which was obtained as a colourless gum. MS: m/e=410.4 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.11 mmol, 36 mg | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
reactant | rac-6-oxa-3-aza-bicyclo[3.1.1]heptane | C12CNCC(O1)C2 | C5H9NO
product | {6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-(1R,5S)-6-oxa-3-aza-bicyclo[3.1.1]hept-3-yl-methanone | 10 mg, 22% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1C[C@@H]2O[C@H](C1)C2)C | C22H20FN3O4
